US06576643B2
c) (S)-10,11-Dihydro-3-[3-[4-(2-propyloxy)pyridin-2-ylamino]-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid
According to the procedure of Example 13 (c), except substituting isopropyl (S)-10,11-dihydro-3-[3-[4-(2-propyloxy)pyridin-2-ylamino]-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate for the ethyl (S)-10,11-dihydro-3-[3-(4-methylpyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate, the title compound was obtained as white powder: MS (ES) 461.3 (M+H)+. Anal. Calcd for C28H32N2O4.0.96 HCl: C, 67.86; H, 6.70; N, 5.65. Found: C, 68.26; H, 6.86; N, 5.25.

reactant | isopropyl (S)-10,11-dihydro-3-[3-[4-(2-propyloxy)pyridin-2-ylamino]-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | CC(C)OC1=CC(=NC=C1)NCCCOC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)OC(C)C)C=CC=C3)C1 | C31H38N2O4
reactant | ethyl (S)-10,11-dihydro-3-[3-(4-methylpyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | CC1=CC(=NC=C1)NCCCOC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)OCC)C=CC=C3)C1 | C28H32N2O3
product | (S)-10,11-Dihydro-3-[3-[4-(2-propyloxy)pyridin-2-ylamino]-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid | CC(C)OC1=CC(=NC=C1)NCCCOC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)O)C=CC=C3)C1 | C28H32N2O4
